US05856556
(3S, 4R)-1-[2-methyl-1-(p-nitrobenzyloxycarbonyl)prop-1-enyl]-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-4-[(phenylthio)carbonylmethyl]-2-azetidinone
44 mg (0.088 mmole) of (3S, 4R)-3-[(R)-1-hydroxyethyl]-1-[2-methyl-1-(p-nitrobenzyloxycarbonyl)prop-1-enyl]-4-[(phenylthio)carbonylmethyl]-2-azetidinone were dissolved in 2 ml of methylene chloride. To the solution were added 32 mg (0.26 mmole) of 4-(N,N-dimethylamino)pyridine and 57 mg (0.26 mmole) of p-nitrobenzyloxycarbonyl chloride, with stirring at 0° C. The mixture was stirred at that temperature for 3 hours, after which it was poured into a dilute aqueous solution of sodium bicarbonate and extracted with chloroform. The chloroform extract was washed successively with dilute hydrochloric acid and a dilute aqueous solution of sodium bicarbonate and dried over anhydrous magnesium sulphate. The solvent was then distilled off. The residue was subjected to thin layer chromatography using silica gel developed with a 3:1 by volume mixture of benzene and ethyl acetate, to afford 21 mg (yield 35%) of the title product as an oil.

reactant | (3S, 4R)-3-[(R)-1-hydroxyethyl]-1-[2-methyl-1-(p-nitrobenzyloxycarbonyl)prop-1-enyl]-4-[(phenylthio)carbonylmethyl]-2-azetidinone | 0.088 mmole, 44 mg | O[C@H](C)[C@H]1C(N([C@@H]1CC(=O)SC1=CC=CC=C1)C(=C(C)C)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C25H26N2O7S
reactant | p-nitrobenzyloxycarbonyl chloride | 0.26 mmole, 57 mg | [N+](=O)([O-])C1=CC=C(COC(=O)Cl)C=C1 | C8H6ClNO4
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-(N,N-dimethylamino)pyridine | 0.26 mmole, 32 mg | CN(C)C1=CC=NC=C1 | C7H10N2
product | (3S, 4R)-1-[2-methyl-1-(p-nitrobenzyloxycarbonyl)prop-1-enyl]-3-[(R)-1-(p-nitrobenzyloxycarbonyloxy)ethyl]-4-[(phenylthio)carbonylmethyl]-2-azetidinone | 21 mg, yield 35% | CC(=C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C([C@@H]([C@H]1CC(=O)SC1=CC=CC=C1)[C@@H](C)OC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O)C | C33H31N3O11S
